US09216975B2
Preparation of 1-(4-fluoro-2-(trifluoromethyl)benzyl)-3-(2,3-dihydro-2-oxobenzo[d]oxazol-4-yl)urea
Commercially available 4-fluoro-2-trifluoromethylbenzylamine (0.5 ml, 3.7 mmol) was dissolved in 20 ml of AcOEt and at 0° C. triphosgene (1.12 g, 3.7 mmol) was added to the solution. The mixture was warmed at 80° C. for 4 hours then evaporated and the residue was dissolved in 5 ml of DMF. The solution of the isocyanate was added dropwise to a solution in DMF (5 ml) of compound 1b (360 mg, 2.4 mmol) and the mixture was warmed at 80° C. for 8 hours. (TLC AcOEt 4/petroleum ether 6). The solvent was evaporated and the crude was dissolved in AcOEt (30 ml) and washed with water (1×20 ml) and brine. The organic phase was dried over sodium sulfate and concentrated under vacuum. The purification of the crude residue by chromatographic column gave 90 mg of a white solid. Yield=10% 1HNMR (DMSO, 200 MHz) δ 4.36 (2H, d, J=5.6 Hz), 6.71 (1H, t, J=6 Hz), 6.98 (2H, m), 7.56 (4H, m), 8.55 (1H, bs), 11.09 (1H, bs); [M+1] 370.2 (C16H11F4N3O3 requires 369.27).

reactant | 4-fluoro-2-trifluoromethylbenzylamine | 3.7 mmol, 0.5 ml | FC1=CC(=C(CN)C=C1)C(F)(F)F | C8H7F4N
reactant | triphosgene | 3.7 mmol, 1.12 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | isocyanate | [N-]=C=O
solvent | AcOEt | 20 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(4-fluoro-2-(trifluoromethyl)benzyl)-3-(2,3-dihydro-2-oxobenzo[d]oxazol-4-yl)urea | 90 mg, Yield=10% | FC1=CC(=C(CNC(=O)NC2=CC=CC3=C2NC(O3)=O)C=C1)C(F)(F)F | C16H11F4N3O3
